US08309539B2
Testosterone is treated with methyl chloroformate in pyridine to give 17β-methoxycarbonyloxyandrost4-en-3-one in 76% yield after recrystallization from methanol. A solution of the 17β-methoxycarbonyloxyandrost4-en-3-one in toluene is pyrolyzed at 460° C., and the crude product is recrystallized from acetone at room temperature to give androsta-4,16-dien-3-one in 90% yield. The androsta-4,16-dien-3-one is reduced at −55° with lithium tris(1,2-dimethylpropyl)hydridoborate in tetrahydrofuran to give a mixture of androsta-4,16-dien-3β-ol and androsta-4,16-dien-3α-ol; and chromatography on silica gel using dichloromethane/ethyl acetate gives pure androsta-4,16-dien-3β-ol and pure androsta-4,16-dien-3α-ol, each in 48% yield. These may be recrystallized (androsta-4,16-dien-3β-ol from cyclohexane at room temperature and androsta-4,16-dien-3α-ol from petroleum ether at −30° C.).

reactant | Testosterone | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17β-methoxycarbonyloxyandrost4-en-3-one | 76% yield | COC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C21H30O4
